### PR TITLE
prove lemmas relating remove_all and app

### PR DESCRIPTION
**Pull request by hackedy**

### CODE REVIEW

File: RemoveAll.v [hunk 1]
```diff
@@ -143,5 +143,64 @@ Section remove_all.
...
+
+  Lemma remove_app_comm :
+    forall a xs ys,
+      remove A_eq_dec a (xs ++ ys) = remove A_eq_dec a xs ++ remove A_eq_dec a ys.
+  Proof.
+    intros.
+    prep_induction xs.
+    induction xs; intros.
+    - tauto.
+    - destruct (A_eq_dec a0 a) eqn:?H;
```
Comment (dwoos) [inline RemoveAll.v]: Don't actually need the hypothesis name here, right?

**Review by dwoos — APPROVED** [review]
Looks good.

**Review by palmskog — CHANGES_REQUESTED** [review]
`remove_app_comm` should be moved to `ListUtil.v` since it's purely about `remove`. Otherwise looks good.

**Review by palmskog — APPROVED** [review]
Looks all good to me now.
